US07517896B2
XVIIa: [2-(1,1′-Biphenyl-4-ylmethoxy)phenyl]methanol
A mixture of 2.92 g (23.49 mmol) of 2-hydroxybenzyl alcohol, 5.00 g (24.67 mmol) of 4-phenylbenzyl chloride and 3.41 g (24.67 mmol) of potassium carbonate in 60 ml of acetone was heated at reflux overnight. The precipitate formed was filtered off. The residue was taken up in 1N NaOH, and the mixture was extracted with ethyl acetate. The combined organic phases were dried over Na2SO4 and the solvent was removed. The product was purified chromatographically (silica gel, cyclohexane/ethyl acetate 10:1).

reactant | 2-hydroxybenzyl alcohol | 23.49 mmol, 2.92 g | OC1=C(CO)C=CC=C1 | C7H8O2
reactant | 4-phenylbenzyl chloride | 24.67 mmol, 5.00 g | C1(=CC=CC=C1)C1=CC=C(CCl)C=C1 | C13H11Cl
reactant | potassium carbonate | 24.67 mmol, 3.41 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | [2-(1,1′-Biphenyl-4-ylmethoxy)phenyl]methanol | C1(=CC=C(C=C1)COC1=C(C=CC=C1)CO)C1=CC=CC=C1 | C20H18O2
